US09259470B2
(S)-1-(2-(tert-Butyldimethylsiloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridine-2(1H)-one (47 mg, 0.087 mmol), 2-methyl pyrazole-3-amine (0.175 mmol, 2.0 equivalents) and anhydrous DMF (3.0 mL) were added to a 25 mL round bottomed flask equipped with a stirring bar. The flask was capped with a rubber septum and flushed with nitrogen. Under a blanket of nitrogen, sodium hydride (8.5 mg, 60% dispersion in mineral oil) was added in one portion. The flask was flushed with nitrogen, capped and stirred at room temperature. The reaction progress was monitored by LCMS, and after 30 minutes, the starting material was consumed. The reaction mixture was quenched by the addition of water (0.5 mL) and ethyl acetate (15 mL) The contents of the round bottomed flask were transferred to a 125 mL separatory funnel, and the reaction flask was rinsed several times with additional ethyl acetate. Crude (S)-1-(2-((tert-butyldimethylsilyl)oxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1-methyl-1H-pyrazol-5-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one was partitioned between ethyl acetate and water (80 mL/30 mL). The ethyl acetate layer was washed once with brine, dried (MgSO4), filtered and concentrated to give crude (S)-1-(2-((tert-butyldimethylsilyl)oxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1-methyl-1H-pyrazol-5-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one. The crude was taken directly into the deprotection step.

reactant | (S)-1-(2-(tert-Butyldimethylsiloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridine-2(1H)-one | 0.087 mmol, 47 mg | O([Si](C)(C)C(C)(C)C)C[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
reactant | 2-methyl pyrazole-3-amine | 0.175 mmol, 2.0 equivalents | CN1N=CC=C1N | C4H7N3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | (S)-1-(2-((tert-butyldimethylsilyl)oxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1-methyl-1H-pyrazol-5-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1=CC=NN1C)=O | C27H32ClFN6O2Si
